US08232278B2
Synthesis of 4-(piperazin-1-yl)-6-chloro-pyrido[3,2-d]pyrimidine
To a solution of piperazine (7.0 g) in 1,4-dioxane (100 ml) was added a solution of crude 4,6-dichloro-pyrido[3,2-d]pyrimidine in 1,4-dioxane (50 ml). The resulting mixture was stirred at room temperature for 1 hour. After concentration under reduced pressure, the residue was purified by silica gel flash chromatography, the mobile phase being a methanol/dichloromethane mixture (in a ratio gradually ranging from 1:10 to 1:5), resulting in the pure title compound as a yellowish solid (3.1 g, yield 76%) which was characterized by its mass spectrum as follows: MS (m/z): 250.1 ([M+H]+, 100).

reactant | piperazine | 7.0 g | N1CCNCC1 | C4H10N2
reactant | 4,6-dichloro-pyrido[3,2-d]pyrimidine | ClC=1C2=C(N=CN1)C=CC(=N2)Cl | C7H3Cl2N3
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 4-(piperazin-1-yl)-6-chloro-pyrido[3,2-d]pyrimidine | 3.1 g, yield 76% | N1(CCNCC1)C=1C2=C(N=CN1)C=CC(=N2)Cl | C11H12ClN5
